US06797718B2
4-[3-(5,6-Dimethyl-8-propyl-7H-imidazo[4,5-c]tetrazolo[1,5-a]pyridin-7-yl)propane-1-sulfonyl]benzoic acid ethyl ester (2.50 g, 5.16 mmol), prepared as described in Parts A-E of Example 92 using the modification of Example 99, was treated with aqueous sodium hydroxide (10 mL of 1 N) in ethanol (26 mL), and the reaction stirred for two hours and became homogeneous. The solvents were removed under reduced pressure, and the residual white solid was dissolved in water (50 mL). The solution was washed with ethyl acetate (3×10 mL) and then adjusted to pH 4 with the addition of concentrated hydrochloric acid. A white solid precipitated, which was isolated by filtration, washed with water, and dried for three hours in a vacuum oven at 60° C. to provide 2.26 g of 4-[3-(5,6-dimethyl-8-propyl-7H-imidazo[4,5-c]tetrazolo[1,5-a]pyridin-7-yl)propane-1-sulfonyl]benzoic acid as a white solid.

reactant | 4-[3-(5,6-Dimethyl-8-propyl-7H-imidazo[4,5-c]tetrazolo[1,5-a]pyridin-7-yl)propane-1-sulfonyl]benzoic acid ethyl ester | 5.16 mmol, 2.50 g | C(C)OC(C1=CC=C(C=C1)S(=O)(=O)CCCN1C(=NC=2C=3N(C(=C(C21)C)C)N=NN3)CCC)=O | C23H28N6O4S
reactant | sodium hydroxide | 1 N, 10 mL | [OH-].[Na+]
solvent | ethanol | 26 mL | C(C)O | C2H6O
product | 4-[3-(5,6-dimethyl-8-propyl-7H-imidazo[4,5-c]tetrazolo[1,5-a]pyridin-7-yl)propane-1-sulfonyl]benzoic acid | 2.26 g | CC1=C(C2=C(C=3N1N=NN3)N=C(N2CCCS(=O)(=O)C2=CC=C(C(=O)O)C=C2)CCC)C | C21H24N6O4S
